US04610987
13.0 g of 2,3-dichloro-6-nitrobenzonitrile was dissolved in 50 ml of dimethylformamide, and 11.0 g of pyrrolidine was added to the solution, followed by stirring while externally cooling because of heat generation. After continuing the stirring for 30 minutes, the reaction mixture was poured into water. The precipitate thus formed was filtered, washed with water and then with methanol to obtain 13.3 g of 2-chloro-6-nitro-3-pyrrolidinobenzonitrile (melting point: 170°-173° C.).

reactant | 2,3-dichloro-6-nitrobenzonitrile | 13.0 g | ClC1=C(C#N)C(=CC=C1Cl)[N+](=O)[O-] | C7H2Cl2N2O2
reactant | pyrrolidine | 11.0 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-chloro-6-nitro-3-pyrrolidinobenzonitrile | 13.3 g | ClC1=C(C#N)C(=CC=C1N1CCCC1)[N+](=O)[O-] | C11H10ClN3O2
